US06727264B1
1-(4-CHLOROPHENYL)-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-3-PROPYL-1H-PYRAZOLE-4-CARBOXAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 1-(4-chlorophenyl)-3-propyl-1H-pyrazole-4-carbonyl chloride: ESMS m/e: 626.3 (M+H)+.

reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
reactant | 1-(4-chlorophenyl)-3-propyl-1H-pyrazole-4-carbonyl chloride | ClC1=CC=C(C=C1)N1N=C(C(=C1)C(=O)Cl)CCC | C13H12Cl2N2O
product | 1-(4-CHLOROPHENYL)-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-3-PROPYL-1H-PYRAZOLE-4-CARBOXAMIDE | ClC1=CC=C(C=C1)N1N=C(C(=C1)C(=O)N[C@@H](CCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C1=CC=CC=C1)CCC | C37H44ClN5O2
